US05306816
To a mixture of allyl (4R,5S,6S)-6-[(1R)-1-hydroxyethyl]-4-methyl-3-methylsulfinyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (150 mg) and silica gel (300 mg) in N,N-dimethylformamide (1.5 ml) was added a solution of (2S,4S)-1-allyloxycarbonyl-2-(2-fluoroethoxymethyl)-4-mercaptopyrrolidine (150 mg) i dimethylacetamide (1.45 g). The mixture was stirred for 2 hours at ambient temperature. Silica gel was removed by filtration and the filtrate was concentrated under reduced pressure. The residue was purified by preparative thin layer chromatography to afford allyl (4R,5S,6S)-3-[(2S,4S)-1-allyloxycarbonyl-2-(2-fluoroethoxymethyl)pyrrolidin-4-ylthio]-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (160 mg).

reactant | allyl (4R,5S,6S)-6-[(1R)-1-hydroxyethyl]-4-methyl-3-methylsulfinyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 150 mg | O[C@H](C)[C@@H]1[C@H]2[C@H](C(=C(N2C1=O)C(=O)OCC=C)S(=O)C)C | C14H19NO5S
reactant | (2S,4S)-1-allyloxycarbonyl-2-(2-fluoroethoxymethyl)-4-mercaptopyrrolidine | 150 mg | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)S)COCCF | C11H18FNO3S
reactant | dimethylacetamide | 1.45 g | CC(=O)N(C)C | C4H9NO
solvent | N,N-dimethylformamide | 1.5 ml | CN(C=O)C | C3H7NO
product | allyl (4R,5S,6S)-3-[(2S,4S)-1-allyloxycarbonyl-2-(2-fluoroethoxymethyl)pyrrolidin-4-ylthio]-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 160 mg | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC1=C(N2C([C@@H]([C@H]2[C@H]1C)[C@@H](C)O)=O)C(=O)OCC=C)COCCF | C24H33FN2O7S
